Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure breakthrough
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ year-old right-handed woman with a history of
T2DM, cardiomyopathy, admissions for ___ s/p evacuation
(___), presumed alcohol withdrawal seizures
(___), focal motor seizures ___ and ___, 
who
presents from rehab with 2 episodes concerning for seizure on
___.  

Please see her most recent discharge summary on ___ for a review
of her many recent admissions. She was most recently admitted by
this writer on ___. 

In summary, she was first seen by neurology in consultation
during an admission to medicine from ___ for first-time
seizures presumed due to alcohol withdrawal. The events were
characterized by behavioral arrest, followed by foaming at the
mouth, eyes rolling back, and arm flexion; then rhythmic shaking
of all four extremities, lasting ___ minutes with a post-ictal
state of somnolence, minimal verbal output, and not following
commands. 

On ___, during an outpatient neurology follow-up with Dr. 
___ was noted to have left hand stiffness and weakness, as well
as difficulty swallowing concerning for stroke. She was thus
admitted to neurologuadrants, and associated
DWI abnormalities on MRI. She way ___. There were multiple EEG
abnormalities in the right-posterior qs diagnosed with epilepsy
partialis continua, with left hand jerking and lateral tongue
movements. She was treated with ___ 200mg BID, and Keppra
later switched to clobazam due to behavioral issues. Her DWI
changes improved. She had an extensive workup for infectious
encephalitis/HSV encephalitis, MELAS, CJD, paraneoplastic 
syndrome/NMDA encephalitis, and sarcoid -- all of which was
negative. She was discharged to rehab on ___, but was sent back
on ___ due to continued jerking movements of the left hand and
face concerning for seizure. 

Thus, she was admitted again from ___. She was continued on
Vimpat, and started on phenytoin while clobazam was stopped. She
was clinically seizure free since ___. She was discharged back 
to
___ on phenytoin ___, and Vimpat 200mg BID. 

She presents today (___) from ___ via ___. Over the last several weeks at rehab, she was noted to
be intermittently unresponsive. At baseline, her mental status
waxes and wanes significantly. Per OSH ED notes, today she had 2
episodes of seizure-like activity with leftward staring and body
rigidity, with an apparent post-ictal period. She was given an
additional 20mg of phenytoin and sent to ___.
(The initial plan was to transfer to ___, but EMS was diverted
to ___ There, a CT showed a possible mass in the right
parietal lobe with surrounding edema. She was ultimately
transferred to ___ given her previous care here. 

In the ED no seizures have been noted. Per the ED resident, she
was oriented to herself and hospital, and had mild left-sided
weakness. On my interview, she was sleeping and completely
uncooperative with examination. She endorsed suicidal ideation 
to
the ED resident, with plan to jump in front of a car to "hasten
the process", so was placed on a ___ hold and observed by
a sitter. 

Neuro ROS: Unable to obtain. 
General ROS: Unable to obtain. 

 
Past Medical History:
Epilepsy (focal motor seizures)
Right subdural hematoma s/p evacuation ___
Alcohol abuse
Alcohol withdrawal seizures
Hypertension
Type II diabetes mellitus
Depression
PTSD
Asthma
GERD
 
Social History:
___
Family History:
Mother with cancer
___ uncle with diabetes
 
Physical Exam:
EXAM ON ADMISSION:
=== EXAM: 
-Vitals: T:98  BP:124/72  HR:90  RR:18  SaO2:97%

-General: Asleep, awakens briefly to voice. Uncooperative, NAD.
-HEENT: NC/AT. No scleral icterus noted. 
-Neck: Appears supple. 
-Cardiac: Well perfused. 
-Pulmonary: Breathing comfortably on room air.
-Abdomen: NT/ND. 
-Extremities: No cyanosis, clubbing, or edema bilaterally. 
-Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
-Mental Status: Somnolent and uncooperative with examination.
Able to say that her "whole body hurts", and followed simple
examination commands for ~1 minute, then refused to participate
and went back to sleep, pulling the blanket over herself. 

-Cranial Nerves:
I: PERRL. EOM tracked bilaterally. Face appeared symmetric. 
Hearing grossly intact to speech. No dysarthria. 

-Motor: Moved all four extremities equally. Able to grip hands
briefly, at least ___ grip and wrist extensors/flexors. Gastrocs
___. Thereafter refused to cooperate with exam. No adventitious
movements, such as tremor, noted. 

-Sensory: Withdrew to tickle of BLE. 

-DTRs:
  Bi Tri ___ Pat Ach 
L               2   2   
R               2   2  
Refused to unfold arms. 
Plantar response was mute on right and extensor on left. 

-Coordination: Unable to assess. 
-Gait: Deferred. 

EXAM ON DISCHARGE:

 
Pertinent Results:
LABS:

IMAGING:

MR BRAIN:
Swollen occipital-parietal gyri with associated high signal on 
the DWI and ADC
map (T2 shine through).  Taking into account on the prior study 
there was
similar changes in the right temporoparietal area which has 
largely resolved
these changes are most likely secondary to seizure activity.  
Please note that
ischemia (infarct) cannot be excluded with certainty and 
follow-up imaging is
advised to differentiate between the 2 etiologies.

CXR:
No radiographic evidence of acute cardiopulmonary disease.
 
Brief Hospital Course:
___ woman with history of right subdural hematoma status 
post evacuation, ETOH abuse s/p recent hospital admission for 
seizures who was re-admitted from rehab after she was found to 
have left arm twitching concerning for seizure activity. 

Transitional Issues:

1. Epilepsia Partialis Continua (Right Parieto-Occipital focus, 
underlying chronic subdural hematoma): Seizures manifest as left 
arm twitching, left tongue movements. These episodes of jerking 
can progress to tonic L facial pulling and left arm contraction. 
Post ictally, she has worsened left arm weakness, severe 
dysarthria, left tongue deviation. EPC characterized by left 
facial twitches, left tongue jerks, left arm asterixis v 
myoclonus. She was always responsive throughout the seizures and 
never lost consciousness. No tongue biting. No urinary 
incontinence. Pt aware of the seizures and abnormal movements. 

Of note, her mental status on discharge was waxing/waning. This 
was stable for days and is thought to be multifactorial in the 
setting of hospital delirium with some behavioral overtones; 
medication effect, and UTI. Specifically, she is sometimes 
oriented to her situation and place and sometimes becomes 
unresponsive. She intermittently refuses to answer questions, 
follow commands, and take her PO medications. This usually 
resolves when she is left alone for 30 minutes and our staff has 
been quite successful at redirecting her to take all of her 
medications. ___ has been doing very well the week prior 
to discharge, taking all of her medications. 

- clinically, she has been seizure free since ___
- continue Phenytoin 100mg PO 8AM, 4PM and 150mg PO 8PM 
- increased ___ 200 mg PO BID to ___ mg PO BID
- please note that she occasionally refuses PO meds but is re-
amenable to taking them within ___ minutes
- check phenytoin level and albumin in 7 days (goal corrected 
phenytoin between ___
- if has breakthrough seizure, give 1 mg Ativan IV and increase 
PO phenytoin to 150 TID

2. Mood disturbance, Not Otherwise Specified: Improved after 
discontinuation of Clobazam and control of seizures on Phenytoin
- Continue Phenytoin, ___ for seizure control
- Continue Seroquel 25 mg BID
- Continue to optimize metabolic needs (Magnesium repletion for 
Mg>2.0, repletion PRN K<3.5)
- NOTE: SHE SOMETIMES REFUSES PO MEDS, SHE IS AMENABLE TO TAKING 
THEM 
AFTER ___ MINUTES WITH COAXING. HER HEALTH CARE PROXY ___ 
IS 
ALSO GOOD AT CONVINCING HER TO TAKE HER MEDICATION. PLEASE MAKE 
SURE SHE DOES NOT MISS HER PHENYTOIN OR ___.
- NOTE: Her mental status on discharge was waxing/waning. This 
has 
been stable for days and is thought to be multifactorial due to 
hospital delirium with behavioral exacerbations.

3. DVT prophylaxis (known PFO)
- continue SCDs, heparin subq, ___
- continue ongoing evaluations of need for heparin subq pending 
patient's mobility

4. Magnesium Wasting, Potassium wasting: etiology unclear, 
possibly related to poorly optimized nutritional goals in 
setting of h/o chronic alcohol use
- continue q2 day Mg and K checks
- replete for goal Mg >1.8, goal K>3.5
- continue multivitamin
- ongoing evaluations with speeth therapy to optimize 
nutritional goals

5. Cholilithiasis, Liver Cirrhosis
- seen on RUQ U/S
- never had abdominal pain during admission
- stable Elevated Alk Phos (180s) throughout her admission
- stable INR 1.3-1.4 throughout her admission, stable AST/ALT 
___
- weekly LFTs, Alk Phos

6. Urinary Tract Infection
- only contaminant grew on cultures
- s/p 3 days of IV ceftriaxone (last dose on ___
- s/p 2  days w PO fluconazole 
- ___ had a UA growing enterococcus, however likely 
contaminated as UA had 6 epis. As patient not having symptoms, 
we did not treat asymptomatic bacteria. However if patient 
complains of urinary urgency or burning sensation would treat 
with vancomycin as previous culture was sensitive. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. ___ 200 mg PO BID 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 40 mg PO QPM 
6. FoLIC Acid 1 mg PO DAILY 
7. Heparin 5000 UNIT SC BID 
8. Loratadine 10 mg PO DAILY 
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. Multivitamins W/minerals 1 TAB PO DAILY 
11. QUEtiapine Fumarate 25 mg PO BID delirium/agitation 
12. Thiamine 250 mg PO DAILY 
13. Docusate Sodium 100 mg PO BID 
14. Phenytoin Infatab 100 mg PO BID 
15. Phenytoin Infatab 150 mg PO DAILY 
16. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
17. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Medications:
1.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin 
2.  ___ 300 mg PO BID  
3.  Phenytoin Infatab 150 mg PO QPM 
8pm  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  Docusate Sodium 100 mg PO BID  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Heparin 5000 UNIT SC BID  
10.  Loratadine 10 mg PO DAILY  
11.  MetFORMIN (Glucophage) 500 mg PO BID  
12.  Metoprolol Succinate XL 25 mg PO DAILY  
13.  Multivitamins W/minerals 1 TAB PO DAILY  
14.  Phenytoin Infatab 100 mg PO BID  
15.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
16.  QUEtiapine Fumarate 25 mg PO BID delirium/agitation  
17.  Senna 8.6 mg PO BID:PRN constipation  
18.  Thiamine 250 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
seizure break-through

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear ___, 

___ were hospitalized due to symptoms of left arm weakness and 
twitching. We were concerned that your symptoms were due to 
uncontrolled seizures. Your cognition and behavior was affected 
by the number of seizure medications ___ were on, so your 
seizure medications were changed. Your cognition and behavior 
slowly started to improve during your hospital stay.

To treat your seizures and improve your cognition, we made the 
following medication changes:

___ also had a urinary tract infection that we treated with an 
anti-fungal and antibiotic.

Please follow up with Neurology and your primary care physician 
as listed below. 

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms: 
- Sudden partial or complete loss of vision 
- Sudden loss of the ability to speak words from your mouth 
- Sudden loss of the ability to understand others speaking to 
___ 
- Sudden weakness of one side of the body 
- Sudden drooping of one side of the face 
- Sudden loss of sensation of one side of the body 

Sincerely, 
Your ___ Neurology Team 
 
Followup Instructions:
___